US09062059B2
6-chloro-2-methyl-N-((5-methyl-1,3,4-thiadiazol-2-yl)methyl)pyrimidin-4-amine 8-1
The title compound was prepared from 4,6-dichloro-2-methylpyrimidine and (5-methyl-1,3,4-thiadiazol-2-yl)methanamine according to the protocol outlined in Example 1, to afford 8-1 as a solid. LRMS (ES) (M+H)+: observed=256.1, calculated=256.7.

reactant | 4,6-dichloro-2-methylpyrimidine | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | (5-methyl-1,3,4-thiadiazol-2-yl)methanamine | CC1=NN=C(S1)CN | C4H7N3S
product | 6-chloro-2-methyl-N-((5-methyl-1,3,4-thiadiazol-2-yl)methyl)pyrimidin-4-amine | ClC1=CC(=NC(=N1)C)NCC=1SC(=NN1)C | C9H10ClN5S
